Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Etoh withdrawal
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
This is a ___ year old male with a history of hypertension, 
chronic knee pain, and alcohol abuse with history of DTs who was 
found down in the snow with hypothermia, now in alcohol 
withdrawal. 

Per report, patient was found down outside by EMS, initially 
temperature around 92.2, 94.5 oral on arrival to the ED. The 
patient does not recall being found or where he was at that 
time.  He was found shivering with slurred speech and 
incontinent of urine.  ___ was 144.  On arrival to the ED, he was 
following commands and speaking in full sententences.
 
In the ED, he received a banana bag and 1 L NS. He was placed on 
a bearhugger and warmed up to T max of 99.4. Once he awoke and 
was warmed, he was agitated, tachycardic, diaphoretic, & 
tremulous, c/w EtOH withdrawal. He also expressed suicidal 
ideation; seen by psychiatry in ED who did not think he was an 
immediate danger to himself. 

On arrival to ___, belligerent, but after speaking with 
admitting resident, calmed down, apologized for his behavior and 
accepted plan for EtOH detox. 

ROS: The patient states he just feels like he was "run over by a 
truck." Denies any fevers, chills, weight change, nausea, 
vomiting, abdominal pain, diarrhea, constipation.  He reports 
occasional hematemesis, none recently, and occasional BRBPR, 
none recently.  never had any endoscopy.  Also complains of a 
headache now.  Denies CP, shortness of breath, orthopnea, PND, 
lower extremity oedema, cough, urinary frequency, urgency, 
dysuria, lightheadedness, gait unsteadiness, focal weakness, 
vision changes, rash or skin changes.  

 
Past Medical History:
Hypertension
Chronic knee pain from MVA in 1980s s/p multiple surgeries (? in 
___
Hepatitis C from blood transfusion in the 1980s, never treated 
(couldn't stay sober long enough), history of biopsy many years 
ago 
Alcohol abuse
Type 2 DM
Anxiety/depression
s/p umbilical hernia repair
 
Social History:
___
Family History:
Breast cancer, hepatocellular cancer in his grandmother. 

 
Physical Exam:
Vitals: 97.4  143/80  88  18 98%RA
Pain: ___ L chest/rib cage, R knee
Access: PIV
Gen: desheveled, belching
HEENT: anicteric, mmm
CV: RRR, no m
Resp: CTAB, no crackles or wheezing
Abd; soft, obese, +tenderness over R ribcage, otw nontender, +BS
Ext; no edema, no R knee swelling
Neuro: A&OX3, grossly nonfocal, mild tremors
Skin: no changes
psych: more sedated today, but easily angry/agitated when awake
gross dermatitis. No ecchymoses. 
 
Pertinent Results:
wbc 5.5
hgb 15.8-->13.3-->12.1  MCV 88
LFTs wnl ___
Chem panel unremarkable, K/phos/Mag okay
Serum tox: etoh 277, +benzo
.
.
Imaging/results: 
CXR: ___ and ___: no acute abnormality

 
Brief Hospital Course:
___ old male with longstanding ETOH dependence c/b DTs, 
tobacco abuse, narcotic abuse, Hep C, Depression/anxiety, 
chronic R knee pain, DM, homelessness brought to ___ with 
environmental hypothermia when found down in ice on ___. Was 
externally warmed up but then actively withdrawing, so t/f to 
MICU. Loaded with valium, given IVFs, bannana bag, stabilized 
overnight. Then transfered to Gen Med for social work and 
placement. Was continued on CIWA scale/valium through the night. 
Was also started on seroquel 300mg qhs (on this as outpt).  
Kicked out ___ several weeks ago for fighting, cannot 
return till ___, so now homeless. Initially was agreeable 
for inpatient detox but on HD#2, refused detox.  Stated that his 
plan was to keep drinking and pass out every day and he does not 
care if he doesnt wake up. He denied active SI or plan 
(passive). Seen by psych who felt that he understood his risks 
and was capable of making his own decisions. Signed out AMA so 
that he can "go to liquor store and continue drinking". Was not 
given any Rx on discharge for valium/seroquel/cymbalta/klonopin 
per psych recs since his plan was to continue drinking and he 
openly admitted that he was abusing seroquel and cymbalta and he 
still has active scripts at his pharmacy in ___. Attempts 
by psych at contacting his outpt psych were unsuccesful.   Of 
note, reported that he fell on L side so c/o a lot L chest/rib 
pain (CXR neg for fracture, no rib films done prior to him 
signing out AMA) and chronic R knee pain. Has h/o chronic 
narcotic abuse (percocet-30mg), here was getting oxycodone 15mg 
q4hrs prn. He states that he gets this off the street and 
through his MD so ___ was not given for this. He was stated on 
clonidine here for HTN but stated he would not take this on 
discharge (was previously on this and still has Rx at pharmacy). 
Refuse to comply with diabetic diet (and seroquel not helping).  
Social work tried to talk with patient about finding a homeless 
shelter but pt did not want to wait for this. Signed out AMA on 
___, got cab voucher so he can go to homeless shelter. 
.
progress note
.
Etoh withdrawal: +++longstanding ETOH abuse, History of DTs, not 
clear about seizures. Also on chronic klonipine (benzo) 
contributing to withdrawal
-Cont Valium per CIWA scale->decrease frequency as tolerated 
(also given that patient is on chronic Klonipin). monitor for 
benzo intoxication
-pt states very clearly that he intends to drink upon discharge 
(is variable about wanting detox) so will NOT given Valium on 
discharge since high risk of abuse
- cont MVI, folate, thiamine
- Psych and SW consult saw pt, he is NOT interested in inpatient 
detox, wants to sign out AMA despite multiple discussions 
emphasizing risk (weather, continued drinking)
.
.
Pain: Complaining of chronic R knee pain, also with some left 
sided rib pain, appears musculoskeletal, reproducible.  CXR done 
in ED  no obvious rib fracture and pt appears to be comfortable 
w/o any splinting and able to ambulate. Chronic narcotic user.   

- Valium as above, oxycodone 15mg (dec from 20mg) q4 prn for 
pain (patient reports getting percocet-30 from PCP and off the 
street for ___ and continue tylenol q6prn. No Rx on 
discharge 
.  
.
Hepatitis C: Reports infection during the ___ from blood 
transfusion. Denies any IVDU, no tatoos.  Has had biopsy in the 
past, no treatment.  Appears he has history of upper GI bleed 
but has never had endoscopy. LFTs wnl, coags normal, albumin 4.1 
all of which go against chronic hepatitis. 
.
.
Anemia, acute drop: HCT drop 42.9-->36.9 but has recieved IVFs 
and HCT now stable and likely his baseline. No active bleeding 
noted but he is certainly high risk

.
.
Hypertension: supposed to be on nifedipine and clonidine at 
home, not sure if taking. Also component of acute etoh 
withdrawal. 
-well controlled now with valium and clonidine 0.2mg bid. hold 
nifedipine. Pt states he will not take this meds on discharge 
though he has clonidine that he uses for w/drawal symptoms. 
.
.
Type 2 DM: On glipizide 10mg bid at home, has not been taking 
it. Sugars now in 300s since he is taking good PO. Seroquel 
making DM worse. 
- resumed glipizide while here with SSI, refused to follow 
diabetic diet
.
.
Depression/anxiety: psych following, they do not feel he is 
actively suicidal despite his occ comments about wanting to lie 
in snow and die. They feel he has capacity to leave AMA if he 
wants. 
-never recieved OSH records from OP Psych re: prior hx and  meds
-for now, on seroquel 300mg qhs (pt admits that he abuses 
seroquel as outpt). holding cymbalta and klonipin (on valium as 
above)
-spoke with psych resident, pt has refills on ALL his meds at 
pharmacy and given that he openly admits that he abuses ALL his 
meds, will no provide any additional Rx on discharge
.
.
Tobacco abuse: nicotine patch 21mg/24hr while here
.  
Left AMA 

.

 
Medications on Admission:
Glucotrol 10 mg BID
Cymbalta 60 mg BID
Nifedipine CR 30 mg
Seroquel 300 mg HS
Clonidine 0.2 mg BID
Klonipin 2 mg TID
percocet-30, 6 pills daily, prescribed, plus what patient buys 
illicitly
 
Discharge Medications:
1. Quetiapine 200 mg Tablet Sig: 1.5 Tablets PO QHS (once a day 
(at bedtime)).  
2. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Glipizide 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
5. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO once a day. 
 
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Environmental hypothermia
Etoh dependence and withdrawal
 
Discharge Condition:
At risk for further ETOH withdrawal and hypothermia
 
Discharge Instructions:
You were admitted to the intensive care unit after you were 
found down in the snow and hypothermic. While here, you 
developed alcohol withdrawal and were treated with valium. You 
were seen by psychiatry who said you were capable of making your 
own decisions since you understool all the risks associated with 
your behaviour. You decided to leave Against Medical Advice 
despite being requested to stay for inpatient detox, especially 
since it is very cold outside and you are homeless now that you 
have been kicked out ___ until ___. 
You left despite this. You were not given any prescriptions as 
your pharmacy still has Rx for you. 
 
Followup Instructions:
___